US04425360
2-(Cinnamyloxyimino)-propionyl chloride is prepared from 4.38 g. (20 mmol) 2-(cinnamyloxyimino)-propionic acid and 3.57 g. (30 mmol) thionyl chloride in the manner described in Example 6. The crude acid chloride is dissolved in 20 ml. chloroform and added, while stirring, to an ice-cooled solution of ammonia in 40 ml. chloroform. The reaction mixture is left to stand overnight at ambient temperature and then shaken up with 100 ml. water. Subsequently, the organic phase is first washed with 0.5 N hydrochloric acid, then with a saturated aqueous solution of sodium bicarbonate and dried over anhydrous sodium sulphate and evaporated in a vacuum. The residue is recrystallized from a mixture of ethyl acetate and ligroin to give 2.9 g. (66% of theory) 2-(cinnamyloxyimino)-propionamide; m.p. 120°-121° C.

reactant | 2-(cinnamyloxyimino)-propionic acid | 20 mmol | C(C=CC1=CC=CC=C1)ON=C(C(=O)O)C | C12H13NO3
reactant | thionyl chloride | 30 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
reactant | 2-(cinnamyloxyimino)-propionamide | C(C=CC1=CC=CC=C1)ON=C(C(=O)N)C | C12H14N2O2
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(Cinnamyloxyimino)-propionyl chloride | C(C=CC1=CC=CC=C1)ON=C(C(=O)Cl)C | C12H12ClNO2
